US04558061
1-(3-Methanesulfonamido-4-hydroxyphenyl)-2-{1,1-dimethyl-3-[3-(4-aminophenyl)imidazolidin-2-on-1-yl]-propylamino}-ethanol hydrochloride
A solution of 3.7 g of 1-(3-methanesulfonamido-4-benzyloxyphenyl)-2-{1,1-dimethyl-3-[3-(4-nitrophenyl)-imidazolidin-2-on-1-yl]-propylamino}-ethanol hydrochloride in 250 ml of methanol was mixed with 0.2 g of HCl in 10 ml of methanol and, after addition of 0.7 g of 5% palladium/charcoal, the mixture was hydrogenated at 26° C. and under normal pressure. The resulting solution, freed from the catalyst, was evaporated, and the title compound was obtained with a yield of 3.3 g. After recrystallization from methanol the melting point was 225° C.

reactant | 1-(3-methanesulfonamido-4-benzyloxyphenyl)-2-{1,1-dimethyl-3-[3-(4-nitrophenyl)-imidazolidin-2-on-1-yl]-propylamino}-ethanol hydrochloride | 3.7 g | Cl.CS(=O)(=O)NC=1C=C(C=CC1OCC1=CC=CC=C1)C(CNC(CCN1C(N(CC1)C1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C)O
reactant | HCl | 0.2 g | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium/charcoal | 0.7 g | [Pd] | Pd
product | 1-(3-Methanesulfonamido-4-hydroxyphenyl)-2-{1,1-dimethyl-3-[3-(4-aminophenyl)imidazolidin-2-on-1-yl]-propylamino}-ethanol hydrochloride | Cl.CS(=O)(=O)NC=1C=C(C=CC1O)C(CNC(CCN1C(N(CC1)C1=CC=C(C=C1)N)=O)(C)C)O | InChI=1S/C23H33N5O5S.ClH/c1-23(2,10-11-27-12-13-28(22(27)31)18-7-5-17(24)6-8-18)25-15-21(30)16-4-9-20(29)19(14-16)26-34(3,32)33;/h4-9,14,21,25-26,29-30H,10-13,15,24H2,1-3H3;1H
